*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/5.60e-03[uF]/250[V]
* Murata P/N :GCM21B5C2E562FX0A
* Property : C = 5.60e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C2E562FX0A Port1 Port2
C01 Port1 N01 5.60e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 4.00e-10
R03 N02 N03 4.46e-11
C04 N03 N04 1.71e-07
R04 N03 N04 4.58e+01
L05 N04 N05 6.95e-11
R05 N04 N05 3.06e-01
L06 N05 N06 8.25e-07
R06 N05 N06 1.77e-02
C07 N06 N07 1.64e-08
L07 N06 N07 4.60e-11
R07 N06 N07 3.91e-01
C08 N07 N08 1.07e-08
L08 N07 N08 3.18e-11
R08 N07 N08 4.45e-01
C09 N08 Port2 3.84e-09
L09 N08 Port2 2.89e-11
R09 N08 Port2 1.60e-01
.ENDS GCM21B5C2E562FX0A
